US09328124B2
tert-Butyl N-allyl-N-[2-(5-fluoro-2-pyridyl)-2-oxo-ethyl]carbamate
2-Bromo-5-fluoro-pyridine (2.46 g, 13.98 mmol) in tetrahydrofuran (20 mL) is added drop wise to isopropylmagnesium chloride (15 mL, 30.00 mmol of a 2M solution in tetrahydrofuran) with stirring under nitrogen at room temperature. The resulting reaction mixture is stirred at room temperature for 2 hours. tert-Butyl N-allyl-N-[2-[methoxy(methyl)amino]-2-oxo-ethyl]carbamate (3.4 g, 13.16 mmol) in tetrahydrofuran (15 mL) is then added drop wise at room temperature and the resulting mixture is stirred overnight. Dilute aqueous hydrochloric acid is added followed by ethyl acetate. The layers are separated and the aqueous phase is re-extracted with ethyl acetate. The combined organic extracts are dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure. The resulting residue is purified by silica gel column chromatography using a 0-40% gradient of acetone in iso-hexane to give the title compound (1.27 g, 33%). ES/MS (m/e): 317 (M+23).

reactant | 2-Bromo-5-fluoro-pyridine | 13.98 mmol, 2.46 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | tert-Butyl N-allyl-N-[2-[methoxy(methyl)amino]-2-oxo-ethyl]carbamate | 13.16 mmol, 3.4 g | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)N(C)OC | C12H22N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-allyl-N-[2-(5-fluoro-2-pyridyl)-2-oxo-ethyl]carbamate | 1.27 g, 33% | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)C1=NC=C(C=C1)F | C15H19FN2O3
